US07759470B2
5-(3-Iodo-5-nitro-indol-1-yl)-2-(4-methyl-benzoyloxymethyl)-3-(4-methyl-benzoyloxy)-tetrahydro-furan
To a suspension of 1.0 g (3.5 mmol) 3-iodo-5-nitroindole in 15 ml acetonitrile were added 0.16 g (6.7 mmol) sodium hydride (Aldrich 223441-50G). The stirring was continued and the suspension turned red. After 15 min. 2.02 g (5.2 mmol) 5-chloro-2-(4-methyl-benzoyloxymethyl)-3-(4-methyl-benzoyloxy)-tetrahydro-furan were added in small portions and the stirring was continued for another 60 minutes at room temperature. The precipitate was removed by filtration and washed once with acetonitrile. The combined yellow filtrates were concentrated until a product precipitated. For complete precipitation of the product 50 ml ethanol were added. The yellow precipitate was removed by filtration und washed with ethanol. The residuum was dried over phosphorus pentoxide and potassium hydroxide in a vacuum (yield: 1.9 g).

reactant | 3-iodo-5-nitroindole | 3.5 mmol, 1.0 g | IC1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C8H5IN2O2
reactant | sodium hydride | 6.7 mmol, 0.16 g | [H-].[Na+]
reactant | 5-chloro-2-(4-methyl-benzoyloxymethyl)-3-(4-methyl-benzoyloxy)-tetrahydro-furan | 5.2 mmol, 2.02 g | ClC1CC(C(O1)COC(C1=CC=C(C=C1)C)=O)OC(C1=CC=C(C=C1)C)=O | C21H21ClO5
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 5-(3-Iodo-5-nitro-indol-1-yl)-2-(4-methyl-benzoyloxymethyl)-3-(4-methyl-benzoyloxy)-tetrahydro-furan | IC1=CN(C2=CC=C(C=C12)[N+](=O)[O-])C1CC(C(O1)COC(C1=CC=C(C=C1)C)=O)OC(C1=CC=C(C=C1)C)=O | C29H25IN2O7
